US05401772
2,6-Dimethyl-4-nitrophenol (5.00 g) and 6.05 ml pyridine in 50 ml dichloromethane are cooled in an ice/salt bath and 6.04 ml of trifluoromethanesulfonic anhydride is added over 30 minutes. After stirring cold for an hour the mixture is quenched with 25 ml water, the layers separated, and the organic phase successively washed with 2N hydrochloric acid (twice), water (twice), 2N sodium hydroxide, and water (twice). Solvent is dried, filtered, and stripped to afford 2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate. NMR (CDCl3): δ2.5 (6H, s), 8.0 (2H, s).

reactant | 2,6-Dimethyl-4-nitrophenol | 5.00 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | pyridine | 6.05 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 6.04 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)(F)F | C9H8F3NO5S
